US06075021
7.1. Ethyl 2-(ethoxycarbonyl)-α-methylene-1H-indole-3-acetate
An ethanol solution saturated with gaseous hydrochloric acid containing 39.1 g (207 mmol) of ethyl 1H-indole-2-carboxylate and 45.3 ml (410 umol) of ethyl pyruvate is brought to approximately 60° C. for 3 h. The mixture is concentrated under reduced pressure and the residue is taken up in diethyl ether. The organic phase is washed with water and dried over sodium sulphate. The solvent is evaporated under reduced pressure and the residue is crystallized from cyclohexane. 45.4 g (158 mmol) of solid product are obtained, which product is used as is in the following stage.

reactant | hydrochloric acid | 207 mmol, 39.1 g | Cl | ClH
reactant | ethyl 1H-indole-2-carboxylate | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | ethyl pyruvate | 410 umol, 45.3 ml | C(C(=O)C)(=O)OCC | C5H8O3
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-(ethoxycarbonyl)-α-methylene-1H-indole-3-acetate | 158 mmol, 45.4 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1C(C(=O)OCC)=C | C16H17NO4
